US04835180
(b) 4-[(4-Bromobutyl)amino]phenol [V; R1 =R2 =R3 =H, X=Br n=4]
A solution of 18.06 g (0.07 mol) of 4-bromo-N-(4-hydroxyphenyl)butanamide in about 120 mL of THF was filtered to remove 0.6 g of a solid and placed in a 2 L flask under nitrogen. It was stirred magnetically in an ice bath while 280 mL (0.28 mol) of 1M borane-THF complex was dripped in over 20 minutes. The reaction was stirred cold for 1/2 hour, then at room temperature for 15 minutes, then at reflux for two hours on a steam bath. The reaction was cooled with an ice bath and diluted with 275 mL of methanol followed by 20 mL of 8N ethanolic HCl. This solution was heated at reflux for six hours on a steam bath and then allowed to stand at room temperature overnight. The next morning the solution was evaporated and the residue was dissolved in acetonitrile and evaporated again. The oily residue was slurried three times with ether and the ether decanted after each addition. After the last decanting the solution was evaporated on a rotary evaporator to yield an oil which was taken to the next step without further purification.

reactant | 4-bromo-N-(4-hydroxyphenyl)butanamide | 0.07 mol, 18.06 g | BrCCCC(=O)NC1=CC=C(C=C1)O | C10H12BrNO2
reactant | HCl | 8N, 20 mL | Cl | ClH
solvent | THF | about 120 mL | C1CCOC1 | C4H8O
solvent | methanol | 275 mL | CO | CH4O
product | 4-[(4-Bromobutyl)amino]phenol | BrCCCCNC1=CC=C(C=C1)O | C10H14BrNO
